US09145429B2
To a mixture of compound 5,6-dichloro-2-(3-(1-hydroxycyclopropyl)propoxy)nicotinamide (0.72 g, 2.4 mmol) and Et3N (1.5 g, 14.4 mmol) in DCM was added trifluoroacetic anhydride on an ice-water bath and the resulting mixture was stirred at room temperature overnight. The mixture was then poured into cold water, the organic phase was seperated and the aqueous phase was further extracted twice with dichloromethane. The combined organic layers were washed with brine twice, dried over Na2SO4 and concentrated to give crude 1-(3-(3-carbamoyl-5,6-dichloropyridin-2-yloxy)propyl)cyclopropyl 2,2,2-trifluoroacetate.

reactant | 5,6-dichloro-2-(3-(1-hydroxycyclopropyl)propoxy)nicotinamide | 2.4 mmol, 0.72 g | ClC=1C(=NC(=C(C(=O)N)C1)OCCCC1(CC1)O)Cl | C12H14Cl2N2O3
reactant | Et3N | 14.4 mmol, 1.5 g | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(3-(3-carbamoyl-5,6-dichloropyridin-2-yloxy)propyl)cyclopropyl 2,2,2-trifluoroacetate | FC(C(=O)OC1(CC1)CCCOC1=NC(=C(C=C1C(N)=O)Cl)Cl)(F)F | C14H13Cl2F3N2O4
